US04411898
A solution of sodium acetate trihydrate (5.97 g) in water (25 ml) was added to 7-[2-(2-propynyloxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-[1-(2-carboxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (3.0 g) and the mixture was stirred overnight. The reaction mixture was adjusted to pH 3 with 10% hydrochloric acid under ice-cooling and precipitates were collected by filtration, washed with water and dried to give 7-[2-(2-propynyloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-carboxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.80 g).

reactant | sodium acetate trihydrate | 5.97 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 7-[2-(2-propynyloxyimino)-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-[1-(2-carboxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 3.0 g | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C22H18F3N9O8S3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 7-[2-(2-propynyloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-[1-(2-carboxyethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 1.80 g | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)N | C20H19N9O7S3
